US05362708
3-(4'-Chlorophenyl)-4-hydroxy-6-bromopyridazine 3-(4'-Chlorophenyl)-4,6-dibromopyridazine (52.2 g, 0.1498 mol) was dissolved in hot dioxane (300 ml) and a solution of 12 g (0.3 mol) of sodium hydroxide solution in 50 ml of water was added dropwise in the course of 10 minutes while the mixture was refluxed gently. The mixture was maintained under reflux for a further 4.5 hours, the dioxane was evaporated in vacuo, and the solid residue was dissolved in 1 l of hot water (95° C.). A small amount of solid product (tarry) was filtered under hot conditions with the aid of animal charcoal, and the hydrolysis product was precipitated using hydrochloric acid. The product which had been isolated (solid) by filtering off with suction was, while still moist, suspended in 1 l of water, after which process the pH of the suspension, at 65° C., was brought to 9-10 using ammonia. Most of the product dissolved, and the insoluble components were isolated and again treated with ammonia. The combined filtrates were then acidified using hydrochloric acid, and the 3-(4'-chlorophenyl)-4-hydroxy-6-bromopyridazine which was obtained was isolated, washed with water and dried to constant weight. 27.5 g, 0.09631 mol, 64.3% of theory, m.p.=262°-264° C. was thereby obtained.

reactant | 3-(4'-Chlorophenyl)-4-hydroxy-6-bromopyridazine 3-(4'-Chlorophenyl)-4,6-dibromopyridazine | 0.1498 mol, 52.2 g | ClC1=CC=C(C=C1)C=1N=NC(=CC1Br)Br.ClC1=CC=C(C=C1)C=1N=NC(=CC1O)Br
reactant | sodium hydroxide | 0.3 mol, 12 g | [OH-].[Na+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-(4'-chlorophenyl)-4-hydroxy-6-bromopyridazine | ClC1=CC=C(C=C1)C=1N=NC(=CC1O)Br | C10H6BrClN2O
